US08039463B2
Oxalyl chloride (4.78 g, 37.6 mmol) was added drop wise to a stirred solution of 4-nitrobenzoic acid (4.2 g, 25 mmol) in chloroform (50 mL). After 5 mins DMF (2 drops) was added and the resulting mixture was stirred at room temperature for 2 hours. The solvent was removed to afford 4.7 g (98%) of 4-nitro-benzoyl chloride which was used for next step without further purification.

reactant | Oxalyl chloride | 37.6 mmol, 4.78 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-nitrobenzoic acid | 25 mmol, 4.2 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-nitro-benzoyl chloride | 4.7 g, 98% | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
